US04735952
m-Chloroperbenzoic acid (1.20 g) was added to a stirred solution of 4-[(4-pyridyl)thio]piperidine dihydrochloride (1.33 g) in water (30 ml) under ice-cooling, and the mixture was stirred at the same temperature for 3 hours and then at room temperature for 5.5 hours. The resultant mixture was diluted with water and the pH of the mixture was adjusted to about 11 with 5% sodium hydroxide solution. The solution was extracted several times with chloroform. The extracts were combined, dried over magnesium sulfate, and concentrated in vacuo. The oily residue was crystallized from n-hexane and the crystals were recrystallized from a mixture of n-hexane and isopropanol to give 4-[(4-pyridyl)sulfinyl]piperidine (0.95 g).

reactant | m-Chloroperbenzoic acid | 1.20 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-[(4-pyridyl)thio]piperidine dihydrochloride | 1.33 g | Cl.Cl.N1=CC=C(C=C1)SC1CCNCC1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 4-[(4-pyridyl)sulfinyl]piperidine | 0.95 g | N1=CC=C(C=C1)S(=O)C1CCNCC1 | C10H14N2OS
